US04705555
1,8-Diazabicyclo[5.4.0]undec-7-ene (0.15 mL, 1.0 mmol) was added dropwise over one minute to a stirred solution of 2-bromo-N'-methylbenzenesulfonimidamide (0.25 g, 1.0 mmol) and phenyl (4,6-dimethoxypyrimidin-2-yl)carbamate (0.28 g, 1.0 mmol) in dry acetonitrile (5 mL) at room temperature. The solvent was evaporated, and the residue was dissolved in dichloromethane. Evaporation of this solvent left a pale yellow viscous oil (0.65 g). This was dissolved in CH2Cl2, and acetic acid (57 μL, 1.0 mol) was added. This solution was chromatographed on a column of silica gel using 1:1 dichloromethane-ether as eluant. Fractions containing the product were diluted with toluene. The solvent was evaporated leaving an oil. This was dissolved in dichloromethane, and the solvent was evaporated leaving 2-bromo-N-(4,6-dimethoxypyrimidin-2-yl)aminocarbonyl-N'-methylbenzenesulfonimidamide as a hard amorphous foam (0.45 g) melting at 120°-125° C.

reactant | 1,8-Diazabicyclo[5.4.0]undec-7-ene | 1.0 mmol, 0.15 mL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | 2-bromo-N'-methylbenzenesulfonimidamide | 1.0 mmol, 0.25 g | BrC1=C(C=CC=C1)S(=O)(N)=NC | C7H9BrN2OS
reactant | phenyl (4,6-dimethoxypyrimidin-2-yl)carbamate | 1.0 mmol, 0.28 g | COC1=NC(=NC(=C1)OC)NC(OC1=CC=CC=C1)=O | C13H13N3O4
reactant | acetic acid | 1.0 mol, 57 μL | C(C)(=O)O | C2H4O2
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-bromo-N-(4,6-dimethoxypyrimidin-2-yl)aminocarbonyl-N'-methylbenzenesulfonimidamide | 0.45 g | BrC1=C(C=CC=C1)S(=O)(NC(=O)NC1=NC(=CC(=N1)OC)OC)=NC | C14H16BrN5O4S
